US08258130B2
A solution of N-(2-bromo-6-fluoropyridin-3-yl)-2,2,2-trifluoro-acetamide (9.16 g, 31.9 mmol), allyl bromide (6.18 g, 47.9 mmol) and sodium carbonate (8.82 g, 63.8 mmol) in CH3CN (80 mL) is stirred at 80° C. for 2 h. The reaction mixture is concentrated in vacuo and the residue is purified by silica gel chromatography eluting with 0-60% DCM in heptane to afford N-allyl-N-(2-bromo-6-fluoro-pyridin-3-yl)-2,2,2-trifluoro-acetamide (9.05 g) as an oil. 1H NMR (300 MHz, CDCl3) δ 3.68 (q, H), 5.01 (q, H), 5.17 (d, H), 5.29 (d, H), 6.85(m, H), 7.00 (dd, H), 7.64(t, H).

reactant | N-(2-bromo-6-fluoropyridin-3-yl)-2,2,2-trifluoro-acetamide | 31.9 mmol, 9.16 g | BrC1=NC(=CC=C1NC(C(F)(F)F)=O)F | C7H3BrF4N2O
reactant | allyl bromide | 47.9 mmol, 6.18 g | C(C=C)Br | C3H5Br
reactant | sodium carbonate | 63.8 mmol, 8.82 g | C([O-])([O-])=O.[Na+].[Na+]
solvent | CH3CN | 80 mL | CC#N | C2H3N
product | N-allyl-N-(2-bromo-6-fluoro-pyridin-3-yl)-2,2,2-trifluoro-acetamide | 9.05 g | C(C=C)N(C(C(F)(F)F)=O)C=1C(=NC(=CC1)F)Br | C10H7BrF4N2O
